US08981111B2
To a stirred solution of (4-methyl-1,3-oxazol-5-yl)(phenyl)methanone (1.34 g, 7.15 mmol) in pyridine (40 mL), was added hydroxylamine hydrochloride (1.24 g, 17.9 mmol) and the reaction mixture was heated at 50° C. for 15 h. The reaction mixture was concentrated in vacuo. Water (60 mL) was added and the mixture was extracted with ethyl acetate (3×30 ml). The combined organic phases were dried over MgSO4, filtered and concentrated in vacuo. Purification of the crude material on silica gel afforded N-hydroxy-1-(4-methyl-1,3-oxazol-5-yl)-1-phenylmethanimine (0.58 g, 39%).

reactant | (4-methyl-1,3-oxazol-5-yl)(phenyl)methanone | 7.15 mmol, 1.34 g | CC=1N=COC1C(=O)C1=CC=CC=C1 | C11H9NO2
reactant | hydroxylamine hydrochloride | 17.9 mmol, 1.24 g | Cl.NO
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | N-hydroxy-1-(4-methyl-1,3-oxazol-5-yl)-1-phenylmethanimine | 0.58 g, 39% | ON=C(C1=CC=CC=C1)C1=C(N=CO1)C | C11H10N2O2
